US06831080B2
Preparation of (±)-3-(2-fluoro-phenyl)-N-[1-(1,2,3,4-tetrahydro-quinolin-7-yl)ethyl]-acrylamide
A solution of 3-(2-fluoro-phenyl)-acrylic acid (166 mg, 1 mmol), CCl3CN (289 mg, 2 mmol) and PPh3 (52 mg, 2 mmol) in CH2Cl2 (10 mL) was stirred at 23° C. for 1.5 hours. Then 7-(1-amino-ethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester, Preparation 29 (276 mg, 1 mmol) was introduced followed by triethylamine (304 mg, 3 mmol). After stirring for 1 hour, the solvent was evaporated, the residue was re-dissolved in a mixture of MeOH (5 mL) and 1M HCl in Et2O (5 mL), and stirred at 23° C. for 24 hours. The solvent was evaporated and the residual material was partitioned between EtOAc and aqueous NaHCO3. The organic phase was washed with water, dried (MgSO4) and evaporated. The crude product was purified by chromatography (SiO2, 10-50% EtOAc in hexane) to give 267 mg (82%) of the title compound as a tan solid.

reactant | 3-(2-fluoro-phenyl)-acrylic acid | 1 mmol, 166 mg | FC1=C(C=CC=C1)C=CC(=O)O | C9H7FO2
reactant | CCl3CN | 2 mmol, 289 mg | C(Cl)(Cl)(Cl)C#N | C2Cl3N
reactant | PPh3 | 2 mmol, 52 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 7-(1-amino-ethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)N | C16H24N2O2
reactant | triethylamine | 3 mmol, 304 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(2-fluoro-phenyl)-N-[1-(1,2,3,4-tetrahydro-quinolin-7-yl)ethyl]-acrylamide | 267 mg, 82% | FC1=C(C=CC=C1)C=CC(=O)NC(C)C1=CC=C2CCCNC2=C1 | C20H21FN2O
